US07772253B2
5-Methyl-6-methylamino-nicotinic acid
The above prepared 5-methyl-6-methylamino-nicotinonitrile (0.311 g, 2.11 mmol) was dissolved in 10.6 ml of THF/ethanol=1/1 and treated with 0.676 g of NaOH pellets (8 eq.). The mixture was refluxed over night, cooled to room temperature, and neutralized with NH4Cl. Ten times extraction with AcOEt, drying of the combined organic layers over sodium sulfate, and evaporation left 0.159 g of the title acid as reddish solid.

reactant | 5-methyl-6-methylamino-nicotinonitrile | 2.11 mmol, 0.311 g | CC=1C(=NC=C(C#N)C1)NC | C8H9N3
reactant | NaOH | 0.676 g | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF ethanol | 10.6 ml | C1CCOC1.C(C)O
product | 5-Methyl-6-methylamino-nicotinic acid | CC=1C(=NC=C(C(=O)O)C1)NC | C8H10N2O2
